US07166598B2
A solution of (2S)-1-[N-benzyl-N-[(1S)-2-chloro-1-methylethyl]amino]-3-methoxy-2-propanol (1.90 g) in N,N-dimethylformamide (10 ml) was added to an ice-cooled suspension of sodium hydride (0.45 g, 60% in mineral oil) in N,N-dimethylformamide (10 ml) at 0° C. After being stirred for 1 hour at the same temperature, the mixture was poured into ice-water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified is by column chromatography on silica gel using mixed solvents of hexane and ethyl acetate (10:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give (2S,5S)-4-benzyl-2-methoxymethyl-5-methylmorpholine (0.86 g) as an oil.

reactant | (2S)-1-[N-benzyl-N-[(1S)-2-chloro-1-methylethyl]amino]-3-methoxy-2-propanol | 1.90 g | C(C1=CC=CC=C1)N([C@H](CCl)C)C[C@@H](COC)O | C14H22ClNO2
reactant | sodium hydride | 0.45 g | [H-].[Na+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2S,5S)-4-benzyl-2-methoxymethyl-5-methylmorpholine | 0.86 g | C(C1=CC=CC=C1)N1C[C@H](OC[C@@H]1C)COC | C14H21NO2
